US08877758B2
10.2 3,6-dichloro-4-piperazin-1-yl-pyridazine
18 g 3,4,6-trichloro-pyridazine and 34 g piperazine are suspended in 100 ml of ethanol and stirred for 30 minutes at ambient temperature. The precipitated solid is suction filtered. 500 ml of water are added to the mother liquor and the precipitated product is suction filtered. 14 g product are obtained as a solid. M.p=111-115° C.

reactant | 3,4,6-trichloro-pyridazine | 18 g | ClC=1N=NC(=CC1Cl)Cl | C4HCl3N2
reactant | piperazine | 34 g | N1CCNCC1 | C4H10N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3,6-dichloro-4-piperazin-1-yl-pyridazine | 14 g | ClC=1N=NC(=CC1N1CCNCC1)Cl | C8H10Cl2N4
